US08222243B2
(1,1-Dioxo-1lambda˜6˜-thiomorpholin-4-yl)-[5-(4-methyl-5-trifluoromethyl-isoxazol-3-yl)-thiophen-2-yl]-methanone
Prepared from 5-(4-Methyl-5-trifluoromethyl-isoxazol-3-yl)-thiophene-2-carboxylic acid and thiomopholine 1,1-dioxide by the method described in Example 2 Method B. The reaction mixture was evaporated to a solid, triturated and filtered with the aid of water, then washed with a 1 N aqueous hydrochloric acid solution followed by water. The solid was air dried to afford product as a colorless solid (157 mg, 80%). 1H NMR (DMSO-d6) 2.34 (d, J=1.7, 3 H), 3.27 (obs m, 4 H), 4.00 (m, 4 H), 7.58 (d, J=3.5, 1 H), 7.68 (d, J=4.0, 1 H). 13C NMR (incomplete, F-coupled carbons obscured by baseline noise due to poor solubility) 8.0, ˜44 (br), 51.5, 116.6, 128.0, 130.0, 130.8, 139.6, 158.5, 162.7. 19F NMR −62.2. LC/MS 5.80 min, [M+1]+ 395.

reactant | 5-(4-Methyl-5-trifluoromethyl-isoxazol-3-yl)-thiophene-2-carboxylic acid | CC=1C(=NOC1C(F)(F)F)C1=CC=C(S1)C(=O)O | C10H6F3NO3S
reactant | thiomopholine 1,1-dioxide | N1CCS(CC1)(=O)=O | C4H9NO2S
product | (1,1-Dioxo-1lambda˜6˜-thiomorpholin-4-yl)-[5-(4-methyl-5-trifluoromethyl-isoxazol-3-yl)-thiophen-2-yl]-methanone | 157 mg, 80% | O=S1(CCN(CC1)C(=O)C=1SC(=CC1)C1=NOC(=C1C)C(F)(F)F)=O | C14H13F3N2O4S2
